US09416111B2
To a mixture of methyl trans-4-formylcyclohexanecarboxylate (150 mg, 0.88 mmol) and 5-chloro-2-iodopyrimidine (210 mg, 0.88 mmol) in THF (4 mL) at −78° C. was added n-butyllithium (2.5 M in hexanes, 0.35 mL, 0.88 mmol) dropwise. The reaction mixture was stirred at −78° C. for 2 hours and then saturated aqueous ammonium chloride solution was added. The mixture was extracted with ethyl acetate and the combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by prep-TLC (ethyl acetate/petroleum ether) to afford methyl trans-4-[(5-chloropyrimidin-2-yl)(hydroxy)methyl]cyclohexanecarboxylate. MS ESI calc'd for C13H18ClN2O3 [M+H]+ 285. found 285. 1H NMR: (400 MHz, CDCl3) δ 8.70 (s, 2H), 4.68 (s, 1H), 3.65 (s, 3H), 2.24 (s, 1H), 2.03-1.82 (m, 3H), 1.48-1.42 (m, 3H), 1.31-1.27 (m, 3H).

reactant | methyl trans-4-formylcyclohexanecarboxylate | 0.88 mmol, 150 mg | C(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C9H14O3
reactant | 5-chloro-2-iodopyrimidine | 0.88 mmol, 210 mg | ClC=1C=NC(=NC1)I | C4H2ClIN2
reactant | n-butyllithium | 0.88 mmol, 2.5 M, 0.35 mL | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | methyl trans-4-[(5-chloropyrimidin-2-yl)(hydroxy)methyl]cyclohexanecarboxylate | ClC=1C=NC(=NC1)C([C@@H]1CC[C@H](CC1)C(=O)OC)O | C13H17ClN2O3
